* Netlist solution for circuit

V1 1 0 12; 12Volt Source
R1 1 2 10; 10 Ohm Resistor
R2 1 3 20; 20 Ohm Resistor
R3 2 3 7.5; 7.5 Ohm Resistor
R4 2 0 30; 30 Ohm Resistor
R5 3 0 5; 5 Ohm Resistor